US07951824B2
2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide
The title compound, was prepared from 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide in accordance with the general method of example 131, step 2 using 2-Chloro-4-bromopyridine instead of 3-Trifluoromethyl-5-bromopyridine to yield the final compound as a white amorphous, MS (ISP): m/e=339.1, 341.1 (M+H)+.

reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C19H24BN3O3
reactant | 2-Chloro-4-bromopyridine | ClC1=NC=CC(=C1)Br | C5H3BrClN
product | 2′-Chloro-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1)Cl)C | C18H15ClN4O
